US04517002
To a solution of 17.3 g (0.113 mol) of POCl3 in 50 mL of toluene held at 0° C. was added 7.9 g (0.10 mol) of pyridine, followed by addition of 10.0 g (0.10 mol) of trifluoroethanol, at a rate to maintain the temperature of the mixture at 0°-10° C. The mixture was stirred one hour at ice bath temperature, and then overnight at room temperature. After filtering, the solution was distilled to give the desired 2,2,2-trifluoroethyl phosphorodichloridate, bp 140°-146° C. The dichloridate, 4.5 g (0.21 mol) was treated with 10 g NH3 in 50 mL CH2Cl2 at -40° C. After warming to room temperature, the product was filtered and purified by Soxhlet extraction with CH2Cl2 for two days. After drying over P2O5, the 2,2,2-trifluoroethyl phosphorodiamidate had mp 142°-144° C.

reactant | POCl3 | 0.113 mol, 17.3 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 0.10 mol, 7.9 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroethanol | 0.10 mol, 10.0 g | C(C(F)(F)F)O | C2H3F3O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2,2-trifluoroethyl phosphorodichloridate | P(OCC(F)(F)F)(=O)(Cl)Cl | C2H2Cl2F3O2P
